US06730681B2
Sodium triacetoxyborohydride (0.53 g, 2.75 mmol) was added portionwise over 10 min to a solution of 3-(2-fluorophenyl)-5-(4-oxopiperidin-1-yl)-[1,2,3]triazolo[1,5-α]quinazoline (0.30 g, 0.83 mmol) and morpholine (0.36 g, 4.1 mmol) in CH2Cl2 (5 ml) and the mixture was allowed to stir for a further 48 h. The mixture was diluted with CH2Cl2 (150 ml), washed with water (50 ml) and brine (50 ml), dried over MgSO4 and evaporated to give a yellow oil. Purification by flash column chromatography on silica eluting with CH2Cl2:MeOH (98:2) followed by trituration with diethyl ether gave 3-(2-fluorophenyl)-5-[4-(morpholin-4-yl)piperidin-1-yl]-[1,2,3]triazolo[1,5-α]quinazoline (0.255 g, 71%) as a white solid. δH (400 MHz; CDCl3) 1.78-1.88 (2H, m), 2.04-2.08 (2H, m), 2.43-2.53 (1H, m), 2.58-2.68 (4H, m), 3.07-3.14 (2H, m), 3.75-3.78 (4H, m), 4.17-4.22 (2H, m), 7.19-7.30 (2H, m), 7.33-7.39 (1H, m), 7.61 (1H, ddd, J=8, 8 and 1), 7.88 (1H, ddd, J=8, 8 and 1), 8.00 (1H, d, J=8), 8.13 (1H, ddd, J=7, 7 and 2), 8.69 (1H, d, J=8); m/z (ES+) 433 (M+H+).

reactant | Sodium triacetoxyborohydride | 2.75 mmol, 0.53 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-(2-fluorophenyl)-5-(4-oxopiperidin-1-yl)-[1,2,3]triazolo[1,5-α]quinazoline | 0.83 mmol, 0.30 g | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)N2CCC(CC2)=O | C20H16FN5O
reactant | morpholine | 4.1 mmol, 0.36 g | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-fluorophenyl)-5-[4-(morpholin-4-yl)piperidin-1-yl]-[1,2,3]triazolo[1,5-α]quinazoline | 0.255 g, 71% | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)N2CCC(CC2)N2CCOCC2 | C24H25FN6O
